US07504413B2
3-Cyano-N-[(1S)-1-({4-[8-(3,5-dimethyl-4-isoxazolyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)-3-hydroxypropyl]-4-[(1-methylethyl)oxy]benzamide
To a solution of N-((1S)-1-{[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]methyl)-3-hydroxypropyl)-3-cyano-4-[(1-methylethyl)oxy]benzamide (200 mg, 0.366 mmol) in dry DMF (2 mL) were added 3,5-dimethyl-isoxazole-4-boronic acid (63 mg, 0.439 mmol), tetrakistriphenylphosphine palladium(0) (21 mg, 0.018 mmol) and 2.0 M aqueous K2CO3 (0.46 mL) successively at rt. The reaction mixture was purged with argon and heated to 100° C., stirred for 22 h, cooled to rt, filtered and purified directly by reverse phase HPLC (MeCN/H2O with 0.1% TFA). The clean fractions were adjusted to pH ˜8 with saturated aqueous NaHCO3 and extracted with 3% MeOH/EtOAc (3×30 mL). The extracts were dried (Na2SO4), filtered and concentrated under reduced pressure to give 45 mg (22%) of the title compound as an off-white solid. LC/MS (ES) m/e 564.2 (M+H)+.

reactant | N-((1S)-1-{[4-(8-bromoimidazo[1,2-a]pyridin-2-yl)phenyl]methyl)-3-hydroxypropyl)-3-cyano-4-[(1-methylethyl)oxy]benzamide | 0.366 mmol, 200 mg | BrC=1C=2N(C=CC1)C=C(N2)C2=CC=C(C=C2)C[C@@H](CCO)NC(C2=CC(=C(C=C2)OC(C)C)C#N)=O | C28H27BrN4O3
reactant | 3,5-dimethyl-isoxazole-4-boronic acid | 0.439 mmol, 63 mg | CC1=NOC(=C1B(O)O)C | C5H8BNO3
reactant | K2CO3 | 2.0 M, 0.46 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Cyano-N-[(1S)-1-({4-[8-(3,5-dimethyl-4-isoxazolyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)-3-hydroxypropyl]-4-[(1-methylethyl)oxy]benzamide | 45 mg, 22% | C(#N)C=1C=C(C(=O)N[C@H](CCO)CC2=CC=C(C=C2)C=2N=C3N(C=CC=C3C=3C(=NOC3C)C)C2)C=CC1OC(C)C | C33H33N5O4
